US07888364B2
4-Chloro-3-iodoaniline (2.5 g, 9.88 mmol) was used in Procedure E with 5-acetylthiophene-2-carboxylic acid (1.85 g, 10.8 mmol) at 23° C. for 2 hours. The crude material was purified by silica gel chromatography (20-100% ethyl acetate/hexanes) to yield 5-Acetyl-N-(4-chloro-3-iodophenyl)thiophene-2-carboxamide as a yellow solid.

reactant | 4-Chloro-3-iodoaniline | 9.88 mmol, 2.5 g | ClC1=C(C=C(N)C=C1)I | C6H5ClIN
reactant | 5-acetylthiophene-2-carboxylic acid | 10.8 mmol, 1.85 g | C(C)(=O)C1=CC=C(S1)C(=O)O | C7H6O3S
product | 5-Acetyl-N-(4-chloro-3-iodophenyl)thiophene-2-carboxamide | C(C)(=O)C1=CC=C(S1)C(=O)NC1=CC(=C(C=C1)Cl)I | C13H9ClINO2S
